US05710346
Into a 200-ml four-necked flask equipped with a stirrer, a Dimroth condenser and a thermometer were fed 10.0 g of 2,2-bis(3,5-dimethoxy-4-hydroxyphenyl)propane and 44.5 g of a 47% aqueous hydrogen bromide solution. The mixture was reacted for 4 hours under reflux. The reaction mixture was cooled to separate out crystals. Filtration was conducted. The filtrate was neutralized with sodium carbonate and extracted with ethyl acetate. The extract was concentrated to obtain 1.1 g of pyrogallol as a light pink powder. The powder was analyzed by GLC. As a result, the powder had a purity of 97%.

reactant | 2,2-bis(3,5-dimethoxy-4-hydroxyphenyl)propane | 10.0 g | COC=1C=C(C=C(C1O)OC)C(C)(C)C1=CC(=C(C(=C1)OC)O)OC | C19H24O6
reactant | hydrogen bromide | Br | BrH
product | pyrogallol | 1.1 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
